US04115394
73 gms. of 1,3-dimethyl-4-hydroxy-6-phenyl-1H-pyrazolo[3,4-b]pyridine (0.31 mol.) are refluxed in 800 ml. of phosphorus oxychloride for 6 hours. The excess phosphorus oxychloride is removed in vacuo and the oily residue is treated with ice-water by which operation the compound becomes solid. The compound is extracted with ether, washed with an aqueous sodium carbonate solution (10%) and again with water. Evaporation of the dried (Na2SO4) and charcoal treated ethereal extract provides 4-chloro-1,3 -dimethyl-6-phenyl-1H-pyrazolo[3,4-b]-pyridine which is washed with absolute ethanol, yield: 55.6 gms. (69.8%) of white product melting at 89°-90° C.

reactant | 1,3-dimethyl-4-hydroxy-6-phenyl-1H-pyrazolo[3,4-b]pyridine | 0.31 mol | CN1N=C(C=2C1=NC(=CC2O)C2=CC=CC=C2)C | C14H13N3O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-1,3 -dimethyl-6-phenyl-1H-pyrazolo[3,4-b]-pyridine | ClC1=C2C(=NC(=C1)C1=CC=CC=C1)N(N=C2C)C | C14H12ClN3
